US04048180
To stirred liquid ammonia (300 mls) was added ferric nitrate (50 mgs) followed by sodium metal (4.5 gms). The mixture was allowed to stand for 30 minutes and then 3-(4-pyridyl)-1-amino propane (13.5 gms) was added. A deep yellow colour was allowed to develop over 1 hour and ethylene oxide (5.0 gms) was then added. The mixture was stirred for a further 2 hours after which time solid ammonium chloride (12 gms) was added. The solvent was allowed to evaporate overnight and the residual solid was extracted into pyridine. Evaporation of the pyridine and crystallisation of the residue from benzene yielded 3-(4-pyridyl)-1-amino-5-hydroxy pentane (3.4 gms; 17%). Characterised by the following spectral data:

reactant | sodium | 4.5 gms | [Na] | Na
reactant | 3-(4-pyridyl)-1-amino propane | 13.5 gms | N1=CC=C(C=C1)CCCN | C8H12N2
reactant | ethylene oxide | 5.0 gms | C1CO1 | C2H4O
reactant | ammonium chloride | 12 gms | [Cl-].[NH4+]
solvent | ammonia | 300 mls | N | H3N
product | 3-(4-pyridyl)-1-amino-5-hydroxy pentane | 3.4 gms, 17% | N1=CC=C(C=C1)C(CCN)CCO | C10H16N2O
